US07914700B2
A mixture of 6-hydroxyhexanoic acid (10 g), 2,6-di-tert-butyl-4-methylphenol (0.5 g), and dimethylacetamide (57 mL) was cooled to 0° C. Acryloyl chloride (17.2 g) was then added dropwise. After stirring for 3.5 hrs, pyridine (12 mL) and water (12 mL) were slowly added. After stirring for another 2 hrs, the solution was acidified with dilute HCl and extracted with ethyl acetate. The combined organic layer was washed with water, dried, filtered, and concentrated to afford 6-acryloyloxyhexanoic acid. 1H NMR (CDCl3, 500 MHz) δ 1.46 (m, 2H), 1.70 (m, 4H), 2.37 (t, J=7.3 Hz, 2H), 4.17 (t, J=6.4 Hz, 2H), 5.82 (d, J=10.4 Hz, 1H), 6.12 (dd, J=17.3, 10.5 Hz, 1H), 6.39 (d, J=17.3 Hz, 1H), 11.59 (br, 1H).

reactant | 6-hydroxyhexanoic acid | 10 g | OCCCCCC(=O)O | C6H12O3
reactant | 2,6-di-tert-butyl-4-methylphenol | 0.5 g | C(C)(C)(C)C1=C(C(=CC(=C1)C)C(C)(C)C)O | C15H24O
reactant | Acryloyl chloride | 17.2 g | C(C=C)(=O)Cl | C3H3ClO
reactant | HCl | Cl | ClH
solvent | water | 12 mL | O | H2O
solvent | pyridine | 12 mL | N1=CC=CC=C1 | C5H5N
solvent | dimethylacetamide | 57 mL | CC(=O)N(C)C | C4H9NO
product | 6-acryloyloxyhexanoic acid | C(C=C)(=O)OCCCCCC(=O)O | C9H14O4
